US04127572
Preparation of the Intermediate 2-benzoyl-4-chlorophenylisothiocyanate
A 5 liter, 3-necked, round-bottom flask equipped with a condenser plus scrubber, mechanical stirrer, and dropping funnel was used as the reaction vessel. The reaction vessel was cooled in an ice bath after charging with 1.2 liters of water. After the water had cooled, 126 ml (1.65 moles) of thiophosgene was added. The mixture was stirred vigorously while a solution containing 352 grams (1.52 moles) of 2-amino-5-chlorobenzophenone in about 1 liter of methylene chloride was added over a period of 20 to 25 minutes. After addition was complete the funnel was rinsed with about 150 ml of methylene chloride and the reaction mixture was stirred for about 1 hour with the ice bath in place. Then the ice bath was removed and the reaction mixture was stirred for 1 additional hour. The organic phase was separated, dried with magnesium sulfate, and concentrated in vacuo. The 2-benzoyl-4-chlorophenylisothiocyanate remained behind as a brown oil which solidified on cooling. The product was recrystallized from hexane to yield tan crystals.

reactant | water | 1.2 liters | O | H2O
reactant | thiophosgene | 1.65 moles, 126 ml | C(=S)(Cl)Cl | CCl2S
reactant | 2-amino-5-chlorobenzophenone | 1.52 moles, 352 grams | NC1=C(C(=O)C2=CC=CC=C2)C=C(C=C1)Cl | C13H10ClNO
solvent | methylene chloride | about 1 liter | C(Cl)Cl | CH2Cl2
product | 2-benzoyl-4-chlorophenylisothiocyanate | C(C1=CC=CC=C1)(=O)C1=C(C=CC(=C1)Cl)N=C=S | C14H8ClNOS
